US04965270
(b) 9-(3-Benzyloxy-2-benzyloxymethylprop-1-oxy)-6-chloro-2-formamidopurine
6-(3-Benzyloxy-2-benzyloxymethylprop-1-oxyamino)-4-chloro-2,5-diformamidopyrimidine (4.8 g, 9.6 mmol) and diethoxymethyl acetate (50 ml) was stirred at 120° C. for 1.5 hours, cooled and evaporated under reduced pressure. The residue in methanol (80 ml) and concentrated ammonia solution (2 ml) was stirred at 20° C. for 30 minutes, the solvent removed under reduced pressure and the residue co-evaporated with methanol. Column chromatography on silica gel (eluted with chloroform and then chloroform-ethanol, 50:1) afforded the title compound (4.11 g, 89%). IR: υmax (KBr) 3110, 2900, 2860, 1700, 1610, 1575, 1500, 1440 cm-1. 1H NMR: δH [(CD3)2SO] 2.40 (1H, quintet, J=6.1, 6.7 Hz, CH), 3.64 (4H, J=6.7 Hz, 2×CH2OCH2Ph), 4.50 (6H, m, CH2ON, 2×CH2Ph), 7.30 ( 10H, m, 2×CH2Ph), 9.36 (1H, s, OCHNH), 11.31 (1H, s, NHCHO). Found: C, 59.44; H, 5.09; N, 13.62%. C24H24N5O4Cl.0.5EtOH requires: C, 59.45; H, 5.40; N, 13.87%.

reactant | 6-(3-Benzyloxy-2-benzyloxymethylprop-1-oxyamino)-4-chloro-2,5-diformamidopyrimidine | 9.6 mmol, 4.8 g | C(C1=CC=CC=C1)OCC(CONC1=C(C(=NC(=N1)NC=O)Cl)NC=O)COCC1=CC=CC=C1 | C24H26ClN5O5
solvent | diethoxymethyl acetate | 50 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 9-(3-Benzyloxy-2-benzyloxymethylprop-1-oxy)-6-chloro-2-formamidopurine | 4.11 g, 89% | C(C1=CC=CC=C1)OCC(CON1C2=NC(=NC(=C2N=C1)Cl)NC=O)COCC1=CC=CC=C1 | C24H24ClN5O4
